US07071201B2
Example 175: Synthesis of 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-[1-(2-pyridyl)methyl]indoline
1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-[1-hydroxy-1-(2-pyridyl)methyl]indoline (0.321 g) was dissolved in ethanol (86.4 ml) f ollowed by the addition of 1 N hydrochloric acid (3.7 ml) and palladium carbon. Then the resultant mixture was catalytically reduced under atmospheric pressure for 3 hr. After filtering off the catalyst, the filtrate was concentrated under reduced pressure. To the residue were added a saturated aqueous solution of sodium bicarbonate and ethyl acetate and the layers were separated. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Then the residue was purified by NH-silica gel column chromatography (hexane/ethyl acetate-methanol system) to give the title compound (0.076 g) as ayellow oil (yield: 24.6%).

reactant | 1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-[1-hydroxy-1-(2-pyridyl)methyl]indoline | 0.321 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)C(C2=NC=CC=C2)O)C=C1 | C27H30FN3O
reactant | hydrochloric acid | 1 N, 3.7 ml | Cl | ClH
solvent | ethanol | 86.4 ml | C(C)O | C2H6O
catalyst | palladium carbon | [C].[Pd]
product | 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-[1-(2-pyridyl)methyl]indoline | 0.076 g, yield: 24.6% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CC2=NC=CC=C2)C=C1 | C27H30FN3
